US04927942
The procedure of Example 1 was followed except that 26.2 g of 1-isopropyl-2-methylimidazoline and 3.0 g of a cobalt hydrogenation catalyst was charged. GLC analysis show that a 14% yield of 1-isopropyl-2-methylimidazole was obtained with 19% conversion of imidazoline.

reactant | 1-isopropyl-2-methylimidazoline | 26.2 g | C(C)(C)N1C(=NCC1)C | C7H14N2
reactant | imidazoline | N1C=NCC1 | C3H6N2
catalyst | cobalt | 3.0 g | [Co] | Co
product | 1-isopropyl-2-methylimidazole | 14% yield | C(C)(C)N1C(=NC=C1)C | C7H12N2
